US06281227B1
[2-Oxo-pyrrolidin-3(S)-yl]-carbamic acid tert-butyl ester (4.0 g, 20 mmol) is dissolved in THF (150 mL), cooled in an ice bath and treated with 60% sodium hydride (0.95 g, 24 mmol). The reaction mixture is stirred for 30 min., then treated with tetra-butylammonium iodide (0.16 g, 0.44 mmol) and bromoacetonitrile (1.7 mL, 24 mmol). After 3 h the reaction is quenched with water, concentrated to a small volume and extracted with methylene chloride (4×). The combined organic extracts are concentrated and the residue is chromatographed (2% MeOH/CH2Cl2) to give [1-cyanomethyl-2-oxo-pyrrolidin-3(S)-yl]-carbamic acid tert-butyl ester (3.4 g 14 mmol). ). EI MS m/z: 240, [M+1]+; 1H NMR (CDCl3, 300 MHz) δ5.08 (br, 1H), 4.27 (m, 2H), 4.15 (m, 1H), 3.47 (m, 2H), 2.68 (m, 1H), 2.00 (m, 1H), 1.45 (s, 9H). This material (3.0 g, 12.6 mmol) is dissolved in ethanol (80 mL) and treated with platinum oxide (0.8 g) at 50 PSI of hydrogen gas for 24 h. The catalyst is removed by filtration and the solution is concentrated to yield the title compound (2.9 g, 12 mmol). EI MS m/z: 244, [M+1]+; 1H NMR (CDCl3, 300 MHz) δ5.13 (br, 1H), 4.13 (m, 1H), 3.34 (m, 5H), 2.85 (t, 1H), 2.60 (m, 1H), 1.90 (m, 1H), 1.40 (s, 9H).

reactant | [2-Oxo-pyrrolidin-3(S)-yl]-carbamic acid tert-butyl ester | 20 mmol, 4.0 g | C(C)(C)(C)OC(N[C@@H]1C(NCC1)=O)=O | C9H16N2O3
reactant | sodium hydride | 24 mmol, 0.95 g | [H-].[Na+]
reactant | bromoacetonitrile | 24 mmol, 1.7 mL | BrCC#N | C2H2BrN
solvent | THF | 150 mL | C1CCOC1 | C4H8O
catalyst | tetra-butylammonium iodide | 0.44 mmol, 0.16 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | [1-cyanomethyl-2-oxo-pyrrolidin-3(S)-yl]-carbamic acid tert-butyl ester | 14 mmol, 3.4 g | C(C)(C)(C)OC(N[C@@H]1C(N(CC1)CC#N)=O)=O | C11H17N3O3
